US05418232
(±)-3-Benzyl-3,4-diazabicyclo[4.1.0]heptane-2,5-dione
In 150 ml of acetonitrile was dissolved 42 g (374 mmol) of 1,2-cyclopropanedicarboxylic acid anhydride, and to the solution was added dropwise a solution of 45.8 g (374 mmol) of benzylhydrazine in 50 ml of acetonitrile, and the mixture was heated under reflux for 15 hours. The solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography. Crystallization from ethyl acetate gave 24.1 g (29.7%) of the titled compound.

reactant | 1,2-cyclopropanedicarboxylic acid anhydride | 374 mmol, 42 g | C12C(C1)C(=O)OC2=O | C5H4O3
reactant | benzylhydrazine | 374 mmol, 45.8 g | C(C1=CC=CC=C1)NN | C7H10N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (±)-3-Benzyl-3,4-diazabicyclo[4.1.0]heptane-2,5-dione | 24.1 g, 29.7% | C(C1=CC=CC=C1)N1C(C2CC2C(N1)=O)=O | C12H12N2O2
